US08604034B2
Glycine ethyl ester hydrochloride (1.0 g, 7.2 mmol) and sodium acetate (960 mg, 12 mmol) were dissolved in water (5 mL). Acetic acid (10 mL) was then added. The solution was heated to reflux and 2,5-dimethoxytetrahydrofuran (0.95 mL, 7.3 mmol) was added. The mixture was heated at reflux for 4 hours before being allowed to cool to room temperature. The dark brown solution was diluted with water (40 mL), neutralised with solid NaHCO3 (16 g) and extracted with CH2Cl2 (3×40 mL). The organic layers were dried (MgSO4), filtered, concentrated in vacuo to give a dark brown liquid. The material was purified by flash chromatography (Biotage SP4, 40 g cartridge, gradient 0-60% gradient EtOAc in hexanes) to give ethyl 1H-pyrrol-1-ylacetate as a colourless liquid (720 mg, yield 65%). 1H-NMR (400 MHz, CDCl3): δ 1.28 (t, 3H, J 7.1 Hz), 4.22 (q, 2H, J 7.2 Hz), 4.62 (s, 2H), 6.20-6.22 (m, 2H), 6.65-6.67 (m, 2H).

reactant | Glycine ethyl ester hydrochloride | 7.2 mmol, 1.0 g | Cl.C(C)OC(CN)=O
reactant | sodium acetate | 12 mmol, 960 mg | C(C)(=O)[O-].[Na+]
reactant | 2,5-dimethoxytetrahydrofuran | 7.3 mmol, 0.95 mL | COC1OC(CC1)OC | C6H12O3
reactant | NaHCO3 | 16 g | C(=O)(O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | water | 40 mL | O | H2O
solvent | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | ethyl 1H-pyrrol-1-ylacetate | 720 mg, yield 65% | N1(C=CC=C1)CC(=O)OCC | C8H11NO2
